US06528525B1
Methyl (S)-2-benzyloxycarbonylamino-3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-propionate
In a similar manner to that described in Reference example 25, a reaction was carried out using N-benzyloxycarbonyl-L-tyrosine methyl ester (4.94 g), t-butyl 2-methanesulfonyloxyethylcarbamate (8.97 g) and potassium carbonate (10.4 g) and the reaction mixture was treated to afford the title compound (3.32 g) as colorless crystals.

reactant | N-benzyloxycarbonyl-L-tyrosine methyl ester | 4.94 g | COC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C18H19NO5
reactant | t-butyl 2-methanesulfonyloxyethylcarbamate | 8.97 g | CS(=O)(=O)OCCNC(OC(C)(C)C)=O | C8H17NO5S
reactant | potassium carbonate | 10.4 g | C([O-])([O-])=O.[K+].[K+]
product | Methyl (S)-2-benzyloxycarbonylamino-3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-propionate | 3.32 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OCCNC(=O)OC(C)(C)C | C25H32N2O7
